### PR TITLE
[Merged by Bors] - feat(Order/SuccPred): add instances for OrdConnected subtypes

### PR DESCRIPTION
**Pull request by Command-Master**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/SuccPred/Archimedean.lean [hunk 1]
```diff
@@ -68,6 +68,19 @@ theorem Succ.rec_iff {p : α → Prop} (hsucc : ∀ a, p a ↔ p (succ a)) {a b
   obtain ⟨n, rfl⟩ := h.exists_succ_iterate
   exact Iterate.rec (fun b => p a ↔ p b) (fun c hc => hc.trans (hsucc _)) Iff.rfl n
 
+lemma le_total_of_ge {r v₁ v₂ : α} (h₁ : r ≤ v₁) (h₂ : r ≤ v₂) : v₁ ≤ v₂ ∨ v₂ ≤ v₁ := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Archimedean.lean:71]: I don't like this naming convention. I think this `r ≤ v₁`, `r ≤ v₂` pattern should be called something like "codirected" or something. Maybe we should even have a predicate so that we can write
```suggestion
lemma le_total_of_codirectedAt {v₁ v₂ : α} (h : CodirectedAt v₁ v₂) : v₁ ≤ v₂ ∨ v₂ ≤ v₁ := by
```

Comment (Command-Master) [reply Mathlib/Order/SuccPred/Archimedean.lean:71]: Is this predicate useful? In what contexts would you use it?

Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Archimedean.lean:71]: I would think it shows up in eg polytope theory, where it corresponds to "belongs to a common face".

Comment (Command-Master) [reply Mathlib/Order/SuccPred/Archimedean.lean:71]: Should I add it in this PR, or should I make a separate one?

Comment (YaelDillies) [reply Mathlib/Order/SuccPred/Archimedean.lean:71]: Probably a separate one since it has nothing to do with succ orders. Sorry for atomising all your PRs 💥🙈

Comment (Command-Master) [reply Mathlib/Order/SuccPred/Archimedean.lean:71]: Looking at this again, I don't see the point of a predicate here, and having `h : ∃ r, r ≤ v₁ ∧ r ≤ v₂` also doesn't seem useful, I think I'll just change the names

File: Mathlib/Order/SuccPred/Archimedean.lean [hunk 2]
```diff
@@ -93,10 +106,59 @@ theorem Pred.rec_iff {p : α → Prop} (hsucc : ∀ a, p a ↔ p (pred a)) {a b
...
+     [DecidableEq α] [@DecidableRel α (· ≤ ·)] [@DecidableRel α (· < ·)] [IsDirected α (· ≥ ·)] :
+     LinearOrder α where
+  le_total a b :=
+    have ⟨c, ha, hb⟩ := directed_of (· ≥ ·) a b
+    le_total_of_codirected ha hb
+  decidableEq := inferInstance
+  decidableLE := inferInstance
+  decidableLT := inferInstance
+
+lemma lt_or_le_of_dierected [PredOrder α] [IsPredArchimedean α] {r v₁ v₂ : α} (h₁ : v₁ ≤ r)
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/Archimedean.lean:142]:
```suggestion
lemma lt_or_le_of_directed [PredOrder α] [IsPredArchimedean α] {r v₁ v₂ : α} (h₁ : v₁ ≤ r)
```

**Review by YaelDillies — APPROVED** [review]
maintainer merge

apart from that

**Comment by jcommelin** [comment]
Should the title be `instances` instead of `typeclasses`?

bors d+
